US07371773B2
The hydroxyl group of 3-fluoro-2-hydroxybenzaldehyde (560 mg) was protected by use of 2-methoxyethoxymethyl chloride (500 mg) in accordance with (production process 1), to thereby produce an MEM form (660 mg, yield: 72%). The resultant MEM form (650 mg) and 3,4-dimethoxybenzyl cyanide (500 mg) were subjected to condensation in accordance with process A of (production process 2), to thereby produce (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-fluoro-2-methoxyethoxymethoxy-phenyl)-acrylonitrile (680 mg, yield: 58%). The thus-produced (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-fluoro-2-methoxyethoxymethoxy-phenyl)-acrylonitrile (670 mg) was subjected to deprotection in accordance with (production process 3), to therey produce the target product (140 mg, yield: 29%).

reactant | 3-fluoro-2-hydroxybenzaldehyde | 560 mg | FC=1C(=C(C=O)C=CC1)O | C7H5FO2
reactant | 2-methoxyethoxymethyl chloride | 500 mg | COCCOCCl | C4H9ClO2
reactant | 3,4-dimethoxybenzyl cyanide | 500 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(3-fluoro-2-methoxyethoxymethoxy-phenyl)-acrylonitrile | 680 mg, yield: 58% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=C(C(=CC=C1)F)OCOCCOC | C21H22FNO5
